US07700609B2
2-(3-Sulfamoyl-phenylamino)-thieno[2,3-h]quinazoline-8-carboxylic acid
2-(3-Sulfamoyl-phenylamino)-thieno[2,3-h]quinazoline-8-carboxylic acid tert-butyl ester (1.84 g, 4.02 mmol) was placed in a 100 mL florentine and cooled in an ice-bath. Premixed TFA/dichloromethane/water (1:4:0.1, 9 mL TFA) was added in one portion and the resultant suspension was stirred at 0° C. for 10 minutes. After a further 2.5 hours at room temperature and 1.5 hours at 40° C. the reaction was concentrated under reduced pressure. The solid obtained was azeotroped with dry dichloromethane (3×10 mL), triturated with diethyl ether and isolated by filtration. The solid obtained was washed with diethyl ether (4×5 mL) and dried in a drying pistol at 40° C. overnight to afford the title compound as a yellow powder (1.44 g, 86% yield containing 1.24 eq. TFA). MS (ES+) 400. δH (d6 DMSO) 7.2-7.4 (2H, br s), 7.5 (1H, m), 7.6 (1H, m), 8.0 (3H, m), 8.7 (1H, s), 8.8-8.9 (1H, s), 9.4 (1H, s), 10.4-10.5 (1H, s), 13.4-13.8 (1H, br s).

reactant | 2-(3-Sulfamoyl-phenylamino)-thieno[2,3-h]quinazoline-8-carboxylic acid tert-butyl ester | 4.02 mmol, 1.84 g | C(C)(C)(C)OC(=O)C1=CC=2C(=CC=C3C=NC(=NC23)NC2=CC(=CC=C2)S(N)(=O)=O)S1 | C21H20N4O4S2
reactant | TFA dichloromethane water | 9 mL | C(=O)(C(F)(F)F)O.ClCCl.O
product | 2-(3-Sulfamoyl-phenylamino)-thieno[2,3-h]quinazoline-8-carboxylic acid | 1.44 g, 1.24 eq, 86% yield | S(N)(=O)(=O)C=1C=C(C=CC1)NC1=NC2=C3C(=CC=C2C=N1)SC(=C3)C(=O)O | C17H12N4O4S2
